US04350752
5-Phthalimidomethylthio-1-phenyl-1H-tetrazole
A solution of 2.40 g N-(bromomethyl)phthalimide (0.010 mol) and 2.00 g 1-phenyl-1H-tetrazole-5-thiol, sodium salt (0.010 mol) in 20 ml N,N-dimethylacetamide was stirred 0.5 hours. The slurry was then poured into water extracted with ethyl acetate, dried and concentrated in vacuo. The solid obtained was recrystallized from ethyl acetate/hexane to give 2.43 g (72.0%) of a colorless solid, m.p. 146°-7° C.

reactant | N-(bromomethyl)phthalimide | 0.010 mol, 2.40 g | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
reactant | 1-phenyl-1H-tetrazole-5-thiol | 2.00 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | sodium | 0.010 mol | [Na] | Na
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 5-Phthalimidomethylthio-1-phenyl-1H-tetrazole | 2.43 g, 72.0% | C1(C=2C(C(N1CSC1=NN=NN1C1=CC=CC=C1)=O)=CC=CC2)=O | C16H11N5O2S
